US07452886B2
1 g of 4-pyridin-4-yl-phenol, 1.3 g of (2-chloro-ethyl)-dimethyl-amine.HCl and 2.42 g of K2CO2 were heated for 48 h under reflux. The mixture was diluted with chloroform, washed with brine and dried over MgSO4. After evaporation to dryness the residue was chromatographed on silicagel with CH2Cl2/MeOH/NH3conc=90:10:1 to give dimethyl-[2-(4-pyridin-4-yl-phenoxy)-ethyl]-amine as brown powder.

reactant | 4-pyridin-4-yl-phenol | 1 g | N1=CC=C(C=C1)C1=CC=C(C=C1)O | C11H9NO
reactant | (2-chloro-ethyl)-dimethyl-amine | 1.3 g | ClCCN(C)C | C4H10ClN
reactant | HCl | Cl | ClH
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | dimethyl-[2-(4-pyridin-4-yl-phenoxy)-ethyl]-amine | CN(CCOC1=CC=C(C=C1)C1=CC=NC=C1)C | C15H18N2O
